data/mechanism_extracts/GreenChem/10.1039_d5gc02979a.json
{"doi": "10.1039_d5gc02979a", "journal": "GreenChem", "is_review": false, "rxn_class_summary": "Electroreductive linear hydrodimerization of allylbenzenes and vinylarenes to 1,4-diarylbutanes via in situ generated vinylarene radical anions", "mechanism_family": ["radical_cathodic", "radical_anion", "sacrificial_anode"], "electrochemical_role": "Cathodic single-electron reduction of the vinylarene (formed in situ by electrochemical isomerization of allylbenzene) to an alkene radical anion; Mg sacrificial anode is oxidized to Mg(II)", "key_intermediates": [{"name": "vinylarene (styrene-type) intermediate from electrochemical isomerization of allylbenzene", "smiles": null, "role": "reactive"}, {"name": "alkene radical anion (I)", "smiles": null, "role": "reactive"}, {"name": "benzylic radical (II) after protonation of radical anion", "smiles": null, "role": "reactive"}, {"name": "benzylic radical adduct (III) from radical addition to second vinylarene", "smiles": null, "role": "reactive"}, {"name": "benzylic carbanion (IV) from second cathodic reduction of III", "smiles": null, "role": "transient"}], "electron_flow": "Allylbenzene first undergoes electrochemical isomerization to a vinylarene, which is reduced at the cathode by SET to an alkene radical anion; protonation (from solvent) gives a benzylic radical that adds to another vinylarene, and the resulting benzylic radical is either further reduced to a carbanion and protonated or completes the product via HAT, while the Mg anode supplies electrons by oxidation to Mg(II).", "rate_determining_step": null, "probe_reagents": [{"name": "BHT", "smiles": "CC(C)(C)c1cc(C)cc(C(C)(C)C)c1O", "purpose": "radical_trap", "observation": "Reaction completely inhibited; BHT-radical adduct detected by HRMS (m/z 357.2424)"}, {"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "Product yield dropped to 10%; TEMPO-adduct detected by HRMS (m/z 262.2165)"}, {"name": "1,2-diphenylcyclopropane (substrate 11)", "smiles": "C1(c2ccccc2)C(c2ccccc2)C1", "purpose": "radical_clock", "observation": "Underwent radical anion-mediated ring-opening reductive hydrogenation to 1,2-diphenylethane (12, 95%) with no dimerization, indicating radical anion does not directly homocouple"}, {"name": "benzyl ether substrate 9 (allyl OBn vinylarene)", "smiles": null, "purpose": "intermediate_trap", "observation": "Conversion of 9 to isopropylbiphenyl (10, 9%) supports benzyl carbanion intermediate"}, {"name": "CD3CN (solvent)", "smiles": "[2H]C([2H])([2H])C#N", "purpose": "isotope_label", "observation": "Product 2l' obtained in 31% yield with 98% D incorporation - H comes from solvent"}, {"name": "DMSO-d6", "smiles": "[2H]C([2H])([2H])S(=O)C([2H])([2H])[2H]", "purpose": "isotope_label", "observation": "2l' in 66% yield with 120% D incorporation (suggests minor benzylic C-H/D exchange)"}, {"name": "D2O", "smiles": "[2H]O[2H]", "purpose": "isotope_label", "observation": "With 20 eq D2O, reduced product 13 (67%, 30% D) and coupled 2l' (25%, 9% D); low D suggests competitive D2O electrolysis"}, {"name": "sterically hindered olefin 7", "smiles": null, "purpose": "intermediate_trap", "observation": "Afforded vinylarene 8 in 45% yield, confirming allylbenzene-to-vinylarene isomerization"}], "evidence_types_used": ["H/D_labeling", "radical_clock", "intermediate_trap_TEMPO", "intermediate_trap_BHT", "isolation_of_intermediate", "product_isotope_distribution"], "evidence_strength": "strong", "notes": "Authors note that for sterically congested 1,1,2-trisubstituted alkenes, addition of a tertiary radical to C1 is unfavorable, so a radical-radical coupling mechanism may operate instead for these substrates. The H source in products is primarily the solvent (DMSO/MeCN), not added proton donors. Anode material was modified to accommodate electron-deficient styrenes (1n)."}
